US05399578
The starting material can be obtained, for example, analogously to Example 2: Reaction of 2.0 g of N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-alanine methyl ester, 1.23 ml of triethylamine and 0.92 ml of n-butyryl chloride yields N-butyryl-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-alanine methyl ester. (TLC: N2) Rf : 0.5.

reactant | N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-alanine methyl ester | 2.0 g | COC([C@@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C)=O | C18H18N2O2
reactant | n-butyryl chloride | 0.92 ml | CCCC(=O)Cl | C4H7ClO
solvent | triethylamine | 1.23 ml | C(C)N(CC)CC | C6H15N
product | N-butyryl-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-alanine methyl ester | COC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(CCC)=O)C)=O | C22H24N2O3
